US07183306B2
A mixture of 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (679 mg), zinc cyanide (279 mg), and tetrakis(triphenylphosphine)-palladium(0) (183 mg) in DMF (4 ml) was stirred at 85° C. for 5 hours. The reaction mixture was cooled to ambient temperature and AcOEt and H2O were added. Unsoluble matter was filtered off through a celite pad. The filtrate was partitioned, and the organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated invacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=20%. The pure fractions were collected and concentrated in vacuo to give 4-[3-methoxy-1-(4-methoxy-phenyl) -1H-pyrazol-5-yl]benzonitrile (326 mg) as a powder.

reactant | 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | 679 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OC)(F)F | C18H15F3N2O5S
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 279 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 183 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[3-methoxy-1-(4-methoxy-phenyl) -1H-pyrazol-5-yl]benzonitrile | 326 mg | COC1=NN(C(=C1)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)OC | C18H15N3O2
